US04613622
A mixture of 16.2 g (68 mMols) of 4-octylbenzyl chloride, 41,8 g (0.43 mols) of potassium acetate and 200 ml of glacial acetic acid was heated for 20 h to 130° C. After cooling, the mixture was poured into approximately 1 liter of water and the aqueous phase was extracted with tert.-butyl methyl ether. The organic phase was washed twice with water, repeatedly with potassium hydrogen carbonate solution (2N) and then with saturated sodium chloride solution. After the solvent had been distilled off, the residue was taken up in 160 ml of 1,2-dimethoxyethane and, after the addition of 64 g of sodium hydroxide in 130 ml of water, the solution was heated for 45 h to boiling point. After the solvent had been distilled off, the residue was extracted with tert.-butyl methyl ether, the ether phase was washed with water, the solvent was distilled off, the residue was taken up in petroleum ether and the solution was reconcentrated by evaporation after treatment with active carbon and fuller's earth. Fractionation under reduced pressure produced 8 g (54% of theoretical) of 4-octylbenzyl alcohol boiling at 128° C./0.11 mbar and having a refractive index n of 1.5033.

reactant | 4-octylbenzyl chloride | 68 mMols, 16.2 g | C(CCCCCCC)C1=CC=C(CCl)C=C1 | C15H23Cl
reactant | potassium acetate | 0.43 mols, 41,8 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | water | approximately 1 liter | O | H2O
product | 4-octylbenzyl alcohol | 8 g, 54% | C(CCCCCCC)C1=CC=C(CO)C=C1 | C15H24O
